### PR TITLE
chore: changes to adapt to leanprover/lean4#2644

### PR DESCRIPTION
**Pull request by kim-em**
leanprover/lean4#2644

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 1]
```diff
@@ -741,7 +741,7 @@ noncomputable def ofInjectiveField {E F : Type*} [DivisionRing E] [Semiring F] [
 
 /-- Given an equivalence `e : A ≃ₐ[R] B` of `R`-algebras and a subalgebra `S` of `A`,
 `subalgebra_map` is the induced equivalence between `S` and `S.map e` -/
-@[simps!]
+@[simps!, nolint simpNF]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:744]: A reminder from the other PR: this is a no-op, and should be reverted

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean [hunk 2]
```diff
@@ -1509,4 +1509,5 @@ theorem mem_subalgebraOfSubring {x : R} {S : Subring R} : x ∈ subalgebraOfSubr
   Iff.rfl
 #align mem_subalgebra_of_subring mem_subalgebraOfSubring
 
+attribute [nolint simpNF] AlgEquiv.subalgebraMap_apply_coe AlgEquiv.subalgebraMap_symm_apply_coe
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:1512]: It's not at all clear to me why these lemmas are problematic; is their statement changing?

Comment (PatrickMassot) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:1512]: No, `simp` has changed!

Comment (eric-wieser) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:1512]: Well, some of these lemmas are generated by running simp and looking at the output; so the two aren't mutually exclusive.

File: Mathlib/Algebra/Algebra/Subalgebra/Basic.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean:744]: Just do it?
```suggestion
@[simps!]
```

Comment (eric-wieser) [reply Mathlib/Algebra/Algebra/Subalgebra/Basic.lean]: There are a handful of these throughout

**Comment by mattrobball** [comment]
Should the change to `simps` be moved to a separate PR? There are good deal of things that need addressing to make it work.

**Comment by eric-wieser** [comment]
Whoops, I did not mean to push that commit, only the one after it.

File: Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean [hunk 3]
```diff
@@ -207,6 +207,7 @@ variable (M : Type v) [AddCommMonoid M] [Module R M]
 -- mathport name: «expr ⊗ₜ[ , ] »
 -- This notation is necessary because we need to reason about `s ⊗ₜ m` where `s : S` and `m : M`;
 -- without this notation, one need to work with `s : (restrictScalars f).obj ⟨S⟩`.
+/-- Tensor multiplication using a ring morphism. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean:210]: Why are we adding a docstring in this PR?

File: Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean [hunk 4]
```diff
@@ -743,8 +744,10 @@ def counit : restrictScalars.{max v u₂,u₁,u₂} f ⋙ extendScalars f ⟶ 
     · rw [map_zero, map_zero]
     · dsimp
       rw [ModuleCat.coe_comp, ModuleCat.coe_comp,Function.comp,Function.comp,
-        ExtendScalars.map_tmul, restrictScalars.map_apply, Counit.map_apply, Counit.map_apply,
-        lift.tmul, lift.tmul, LinearMap.coe_mk, LinearMap.coe_mk]
+        ExtendScalars.map_tmul, restrictScalars.map_apply]
+      -- This used to be `rw`, but we need `erw` after leanprover/lean4#2644
+      erw [Counit.map_apply] --Counit.map_apply,
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean:749]: Stray comment?

Comment (mattrobball) [reply Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean]: Removed

File: Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean (hunk 3 above)
Comment (mattrobball) [reply Mathlib/Algebra/Category/ModuleCat/ChangeOfRings.lean]: I gave two reasons on Zulip :) 

Removed.

**Comment by mattrobball** [comment]
There are a couple of places where I kinda threw in the towel with regards to non-terminal simps. 

I am also slapped some `erw` on whole blocks when it was only necessary for one or two terms in the list.

File: Mathlib/Algebra/Category/AlgebraCat/Limits.lean [hunk 5]
```diff
@@ -105,16 +105,30 @@ def limitConeIsLimit (F : J ⥤ AlgebraCatMax.{v, w} R) : IsLimit (limitCone.{v,
     apply Subtype.ext
     ext j
     simp [forget_map_eq_coe, AlgHom.map_one, Functor.mapCone_π_app]
+    -- This used to be `rw`, but we need `erw` after leanprover/lean4#2644
+    erw [map_one]
```
Comment (alreadydone) [inline Mathlib/Algebra/Category/AlgebraCat/Limits.lean:109]: There wasn't a `rw` in the original code?

**Comment by mattrobball** [comment]
We probably want to store the original proof in the comments when it is more complicated than rw -> erw.

File: Mathlib/Algebra/Category/AlgebraCat/Limits.lean (hunk 5 above)
Comment (mattrobball) [reply Mathlib/Algebra/Category/AlgebraCat/Limits.lean]: I started cleaning up things but about to fall into a black hole for a few days.

File: Mathlib/Algebra/Category/GroupCat/Biproducts.lean [hunk 6]
```diff
@@ -76,6 +76,9 @@ noncomputable def biprodIsoProd (G H : AddCommGroupCat.{u}) :
   IsLimit.conePointUniqueUpToIso (BinaryBiproduct.isLimit G H) (binaryProductLimitCone G H).isLimit
 #align AddCommGroup.biprod_iso_prod AddCommGroupCat.biprodIsoProd
 
+-- simpNF now complains after leanprover/lean4#2644
+attribute [nolint simpNF] AddCommGroupCat.biprodIsoProd_hom_apply
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/GroupCat/Biproducts.lean:80]: This is genuinely a bad simp lemma; this should link the mathlib4 issue too, as I did in the suggested comment.

Comment (eric-wieser) [reply Mathlib/Algebra/Category/GroupCat/Biproducts.lean:80]: Maybe we should actually fix this by writing the simps lemmas by hand?

File: Mathlib/Algebra/Category/GroupCat/Adjunctions.lean [hunk 7]
```diff
@@ -60,7 +60,7 @@ theorem free_obj_coe {α : Type u} : (free.obj α : Type u) = FreeAbelianGroup 
   rfl
 #align AddCommGroup.free_obj_coe AddCommGroupCat.free_obj_coe
 
-@[simp]
+@[simp, nolint simpNF]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/GroupCat/Adjunctions.lean:63]: This one doesn't look like the `simps` bug; what goes wrong with this lemma?

File: Mathlib/Algebra/Category/GroupCat/Basic.lean [hunk 8]
```diff
@@ -528,3 +528,5 @@ abbrev CommGroupCatMax.{u1, u2} := CommGroupCat.{max u1 u2}
 /-- An alias for `AddCommGroupCat.{max u v}`, to deal around unification issues. -/
 @[nolint checkUnivs]
 abbrev AddCommGroupCatMax.{u1, u2} := AddCommGroupCat.{max u1 u2}
+
+attribute [nolint simpNF] AddGroupCat.ofHom_apply GroupCat.ofHom_apply
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/GroupCat/Basic.lean:532]: Please move this next to the problematic definition

File: Mathlib/Algebra/Category/GroupCat/Biproducts.lean [hunk 9]
```diff
@@ -76,6 +76,9 @@ noncomputable def biprodIsoProd (G H : AddCommGroupCat.{u}) :
   IsLimit.conePointUniqueUpToIso (BinaryBiproduct.isLimit G H) (binaryProductLimitCone G H).isLimit
 #align AddCommGroup.biprod_iso_prod AddCommGroupCat.biprodIsoProd
 
+-- simpNF now complains after leanprover/lean4#2644
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/GroupCat/Biproducts.lean:79]:
```suggestion
-- These lemmas have always been bad (#7657), but lean4#2644 made `simp` start noticing
```

File: Mathlib/Algebra/Category/GroupCat/Biproducts.lean [hunk 10]
```diff
@@ -138,6 +141,9 @@ noncomputable def biproductIsoPi (f : J → AddCommGroupCat.{u}) :
   IsLimit.conePointUniqueUpToIso (biproduct.isLimit f) (productLimitCone f).isLimit
 #align AddCommGroup.biproduct_iso_pi AddCommGroupCat.biproductIsoPi
 
+-- simpNF now complains after leanprover/lean4#2644
+attribute [nolint simpNF] AddCommGroupCat.biproductIsoPi_hom_apply
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/GroupCat/Biproducts.lean:145]: This one too:
```suggestion
-- These lemmas have always been bad (#7657), but lean4#2644 made `simp` start noticing
attribute [nolint simpNF] AddCommGroupCat.biproductIsoPi_hom_apply
```

File: Mathlib/Algebra/Category/GroupCat/EquivalenceGroupAddGroup.lean [hunk 11]
```diff
@@ -86,6 +86,12 @@ def groupAddGroupEquivalence : GroupCat ≌ AddGroupCat :=
     (NatIso.ofComponents fun X => AddEquiv.toAddGroupCatIso (AddEquiv.additiveMultiplicative X))
 #align Group_AddGroup_equivalence groupAddGroupEquivalence
 
+-- simpNF complains after leanprover/lean4#2466
+attribute [nolint simpNF] groupAddGroupEquivalence_unitIso_hom_app_apply
+  groupAddGroupEquivalence_counitIso_inv_app_apply
+  groupAddGroupEquivalence_unitIso_inv_app_apply
+  groupAddGroupEquivalence_counitIso_hom_app_apply
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/GroupCat/EquivalenceGroupAddGroup.lean:93]: These are also #7657

File: Mathlib/Algebra/Category/GroupCat/Biproducts.lean (hunk 6 above)
Comment (mattrobball) [reply Mathlib/Algebra/Category/GroupCat/Biproducts.lean:80]: What is the threshold for "poorly typed"?

File: Mathlib/Algebra/Category/GroupCat/Adjunctions.lean (hunk 7 above)
Comment (mattrobball) [reply Mathlib/Algebra/Category/GroupCat/Adjunctions.lean:63]:
```lean
 Left-hand side simplifies from
  ↑(AddCommGroupCat.free.map f) x
to
  ↑(AddCommGroupCat.free.map f) x
using
  simp only [@AddCommGroupCat.free_obj_coe]
```
where the first is obfuscated 
```lean
@FunLike.coe (↑(AddCommGroupCat.free.obj α) →+ ↑(AddCommGroupCat.free.obj β)) (↑(AddCommGroupCat.free.obj α))
  (fun a ↦ (fun x ↦ ↑(AddCommGroupCat.free.obj β)) a) AddHomClass.toFunLike (AddCommGroupCat.free.map f) x :
(fun x ↦ ↑(AddCommGroupCat.free.obj β)) x
```
and the latter is the cleaner
```lean
@FunLike.coe (FreeAbelianGroup α →+ FreeAbelianGroup β) (FreeAbelianGroup α) (fun a ↦ FreeAbelianGroup β)
  AddHomClass.toFunLike (AddCommGroupCat.free.map f) x :
FreeAbelianGroup β
```

File: Mathlib/Algebra/Category/GroupCat/Biproducts.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Category/GroupCat/Biproducts.lean:80]: Have a look at the type of the lemma (either before or after the bump) and see https://github.com/leanprover-community/mathlib4/issues/7657; the problem is when a morphism ` f : A -> B` ends up with a simp lemma of the form `ohno (a : NotAUnlessYouSquint) : f a = b`.

Comment (mattrobball) [reply Mathlib/Algebra/Category/GroupCat/Biproducts.lean:80]: Sure. But that seems like half of mathlib.

File: Mathlib/Algebra/Category/ModuleCat/Monoidal/Closed.lean [hunk 12]
```diff
@@ -34,7 +34,8 @@ def monoidalClosedHomEquiv (M N P : ModuleCat.{u} R) :
   left_inv f := by
     apply TensorProduct.ext'
     intro m n
-    rw [coe_comp, Function.comp_apply, MonoidalCategory.braiding_hom_apply,
+    -- This used to be `rw`, but we need `erw` after leanprover/lean4#2644
+    erw [coe_comp, Function.comp_apply, MonoidalCategory.braiding_hom_apply,
```
Comment (mattrobball) [inline Mathlib/Algebra/Category/ModuleCat/Monoidal/Closed.lean:38]: There is some strange behavior here. If I break out the terms that need `erw` then the following closes the goal alone 
```lean
    erw [coe_comp]
    rw [Function.comp_apply] 
    erw [MonoidalCategory.braiding_hom_apply, TensorProduct.lift.tmul] 
```

File: Mathlib/Algebra/Category/ModuleCat/Monoidal/Closed.lean [hunk 13]
```diff
@@ -106,4 +107,5 @@ theorem monoidalClosed_pre_app {M N : ModuleCat.{u} R} (P : ModuleCat.{u} R) (f
 set_option linter.uppercaseLean3 false in
 #align Module.monoidal_closed_pre_app ModuleCat.monoidalClosed_pre_app
 
+attribute [nolint simpNF] ModuleCat.monoidalClosed_curry
```
Comment (mattrobball) [inline Mathlib/Algebra/Category/ModuleCat/Monoidal/Closed.lean:110]: Here we have a problem with `ModuleCat.carrier R CommRing.toRing (op M).unop` vs just `M`

File: Mathlib/Algebra/Category/GroupCat/Biproducts.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Category/GroupCat/Biproducts.lean:80]: Can you point to a lemma in mathlib with that problem that isn't touched by this PR?

Comment (mattrobball) [reply Mathlib/Algebra/Category/GroupCat/Biproducts.lean:80]: Ah ok. `transparency := reducible` vs `transparency := default` or above

File: Mathlib/Algebra/Category/GroupCat/Adjunctions.lean (hunk 7 above)
Comment (semorrison) [reply Mathlib/Algebra/Category/GroupCat/Adjunctions.lean:63]: Left a comment.

File: Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean [hunk 14]
```diff
@@ -75,6 +75,7 @@ def ε : 𝟙_ (ModuleCat.{u} R) ⟶ (free R).obj (𝟙_ (Type u)) :=
   Finsupp.lsingle PUnit.unit
 #align Module.free.ε ModuleCat.Free.ε
 
+-- This lemma has always been bad, but lean4#2644 made `simp` start noticing
 @[simp, nolint simpNF]
 theorem ε_apply (r : R) : ε R r = Finsupp.single PUnit.unit r :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean:80]: If `ε` is an implementation detail, then presumably we can use `local simp` here?

File: Mathlib/Lean/Expr/Basic.lean [hunk 15]
```diff
@@ -115,17 +115,6 @@ def isBlackListed {m} [Monad m] [MonadEnv m] (declName : Name) : m Bool := do
...
-
-/-- The union of two `NameSet`s. -/
-def append (s t : NameSet) : NameSet :=
-  s.mergeBy (fun _ _ _ => .unit) t
-
-instance : Append NameSet where
-  append := NameSet.append
-
-end NameSet
-
```
Comment (semorrison) [inline Mathlib/Lean/Expr/Basic.lean:128]: You can ignore the changes to this file. They are needed here to get Mathlib to compile against this toolchain, but do not need to be reviewed.

File: Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean (hunk 14 above)
Comment (semorrison) [reply Mathlib/Algebra/Category/ModuleCat/Adjunctions.lean]: Feel free to make such changes yourself, but otherwise I'm going to leave these for "later".

File: Mathlib/Order/InitialSeg.lean [hunk 16]
```diff
@@ -400,12 +401,16 @@ noncomputable def subrelIso (f : r ≺i s) : Subrel s {b | s b f.top} ≃r r :=
       (funext fun _ ↦ propext f.down.symm))),
     map_rel_iff' := f.map_rel_iff }
 
-@[simp]
+-- This lemma was always bad, but the linter only noticed after lean4#2644
+attribute [nolint simpNF] PrincipalSeg.subrelIso_symm_apply
+
+-- This lemma was always bad, but the linter only noticed after lean4#2644@[simp, nolint simpNF]
```
Comment (eric-wieser) [inline Mathlib/Order/InitialSeg.lean:407]: typo
```suggestion
-- This lemma was always bad, but the linter only noticed after lean4#2644
@[simp, nolint simpNF]
```

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 17]
```diff
@@ -1447,11 +1447,14 @@ def LieIdeal.topEquiv : (⊤ : LieIdeal R L) ≃ₗ⁅R⁆ L :=
   LieSubalgebra.topEquiv
 #align lie_ideal.top_equiv LieIdeal.topEquiv
 
+-- These lemmas have always been bad (#7657), but leanprover/lean4#2644 made `simp` start noticing
 @[simp]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Submodule.lean:1451]:
```suggestion
-- These lemmas have always been bad (#7657), but leanprover/lean4#2644 made `simp` start noticing
@[simp]
```
```suggestion
-- These lemmas have always been bad (#7657), but leanprover/lean4#2644 made `simp` start noticing
@[simp]
```
```suggestion
-- These lemmas have always been bad, but leanprover/lean4#2644 made `simp` start noticing
@[simp, nolint simpNF]
```
#7657 can't be relevant here, this isn't `simps`! Are we sure this `nolint` is even needed?

Comment (eric-wieser) [reply Mathlib/Algebra/Lie/Submodule.lean:1451]: (same applies to the rest of the file)

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 18]
```diff
@@ -1447,11 +1447,14 @@ def LieIdeal.topEquiv : (⊤ : LieIdeal R L) ≃ₗ⁅R⁆ L :=
...
 theorem LieIdeal.topEquiv_apply (x : (⊤ : LieIdeal R L)) : LieIdeal.topEquiv x = x :=
   rfl
 #align lie_ideal.top_equiv_apply LieIdeal.topEquiv_apply
 
+attribute [nolint simpNF] LieIdeal.topEquiv_apply
+
```
Comment (eric-wieser) [inline Mathlib/Algebra/Lie/Submodule.lean:1457]:
```suggestion
```
since this can be inlined above.

**Comment by semorrison** [comment]
Closing in favour of the actual bump PR, #7703
